Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with HER+ breast cancer with known supra and infratentorial
brain metastasis who presents from ___ with
progressive confusion.

The patient states that on the day of admission, she had the
gradual onset of lightheadedness and falls. She does not 
remember
any prodromal symptoms such as aura, palpitations, chest pain or
dyspnea. She did not lose consciousness with her falls but she 
is
not entirely sure. She then presented to ___ for
evaluation.

Vitals on admission:
97.2 HR 71 BP 124/58 R 18 SpO2 97%

Labs on admission:

141|104|8
---------<276
4.4|33|0.7

    13.3
4.8>----<185
    40.8

MRI brain demonstrated:
" There is a heterogeneously enhancing mass 14mm in diameter in
the right cerebellar hemisphere with surrounding edema. There 
are
multiple ring-enhancing masses in the cerebrum with surrounding
edema. A total of a cerebral masses are identified the largest
one is in the left temporal lobe, 17mm long axis, just inferior
to the left basal ganglia. There is a 13 mm mass near the body 
of
the right side of the corpus callosum. There is no midline shift
or herniation. The brainstem is not involved with a mass. There
is no evidence of intracranial hemorrhage."

ECG: NSR L axis. Normal Intervals. No ST-T wave changes. 

While at ___, her U/A demonstrated ___ and nitrites and she as
started on CTX but transitioned to levofloxacin as she was 
unable
to obtain IV access. Given her MRI findings she was started on
dexamethasone and transferred to ___ for further evaluation. 

Meds on transfer:
Insulin sliding scale
Dexamethasone 4mg q6h
metformin
asa 81
apixaban 5mg BID
Losartan 25mg 
levofloxacin 750mg
APAP
Lataoprost
CTX 1000mg

Upon arrival to ___, the patient endorses the above history.
She is oriented to person and place but endorses confusion. She
notes mild pain to her occiput due to her recent fall. She has 
no
headache or vision changes. No fevers or chills. No chest pain 
or
dyspnea. No nausea, vomiting, diarrhea or abdominal pain. No
melena or hematochezia. +frequency and dysuria x1 day. 

ROS: 10 point review of systems discussed with patient and
negative unless noted above

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___ - DCIS of left breast s/p partial mastectomy & radiation
___ - breast MRI: diffuse enhancement of the nipple
___ - left breast biopsy --> microinvasive ductal 
carcinoma,
grade III (ER+/PR-/ unknown HER2). 
___ - left skin sparing mastectomy and left sentinel lymph
node biopsy --> pathology: microinvasive carcinoma (single 
focus,
<1mm; ER+/PR-/HER2+). ___ LN+
___ - shortness of breath
___ - CT Chest: multiple pulmonary nodules, suspicious of
metastatic disease. 
___ - LLL transbronchial biopsy: no malignancy
___ - FNA of level 7 LN: metastatic adenocarcinoma,
ER-/PR-/HER2+ 
___ - ___ - 6 cycles: Herceptin/pertuzumab/taxotere
___ - ___ - 4 cycles: Herceptin/pertuzumab
___ - ___ - Herceptin alone
___ - PET/CT: pulmonary progression 
___ - ___ - TDM1
___ - Brain MRI: numerous supra and infratentorial sub
centimeter brain metastases
___ - LP (Dr. ___ --> negative for leptomeningeal
disease. 
___ - ___ - Whole Brain RT (___ - 30Gy/12fx)
11.2.2106 - ___ - Taxol/Herceptin (12 cycles)
___ - Brain MRI: improvement in brain disease
___ - ___ - Herceptin alone (2 cycles)
___ - Head MRI: progression & new lesions in brain
___ - C1D1 ___
___ - C2D1 ___ Herceptin
___ - Head MRI: stable mets, new pachymeningeal prominence
___ - SRS to 5 lesions (22Gy/1fx) 

----------------
PRIOR RADIATION: 
----------------
C1) Left breast RT - ___
C2) WBRT - ___ - ___ - 30Gy/12fx (___)
C3) SRS (as above)

PAST MEDICAL HISTORY:  
1. Breast cancer
2. Diabetes
3. Cholecystectomy, ___
4. Dyslipidemia
5. Hypertension
6. Obesity
7. Uterine fibroid, ___
8. Lactose intolerance
9. Congestive heart failure
10. Left femoral vein DVT
 
Social History:
___
Family History:
Of her seven siblings, one brother died with kidney
problems. One sister is on hemodialysis. One sister is healthy.
One brother is in a nursing home after a stroke. Her mother died
at ___ with a brain hemorrhage. Her father is ___ and doing well.
 
Physical Exam:
VS: 98.6 PO BP: 118/76 HR: 85 RR: 18 O2 sat: 97% O2 delivery: RA 

GENERAL:  Very pleasant elderly woman sitting up, attentive 
HEENT: Moist mucous membranes with upper dentures. No oral
lesions. 
EYES:  PERRL, strabismus/lateral deviation of left eye, cannot 
move the Left eye medially past the midline 
covering. Tracks in all quadrants
NECK:  Supple; JVD not elevated
RESP:  No increased WOB, CTAB
___:  RRR no MRG
GI:  Soft, NTND no HSM
EXT:  warm, no edema
SKIN:  dry
NEURO: strength ___ b/l upper ext today, following commands, 
Awake Oriented to person and has difficulty coming up with the 
word "hospital," but can identify it via multiple choice. not 
oriented to year (never has been on this admission). Lateral 
deviation of left eye stable. stable Right facial droop. notable 
for confusion, waxing and waning (at times follows commands, 
other times has more difficulty)

DISCHARGE:
24 HR Data (last updated ___ @ 820)
    Temp: 97.8 (Tm 98.8), BP: 120/76 (105-136/69-80), HR: 87
(76-92), RR: 18 (___), O2 sat: 93% (93-100), O2 delivery: RA
Fluid Balance (last updated ___ @ 902)
  Last 8 hours  Total cumulative -393ml
    IN: Total 357ml, PO Amt 357ml
    OUT:  Total 750ml, Urine Amt 750ml
  Last 24 hours  Total cumulative -1318ml
    IN: Total 957ml, PO Amt 957ml
    OUT:  Total 2275ml, Urine Amt 2275ml

GENERAL: NAD
EYES: PERRL, anicteric
HEENT: moist mucous membranes, no lesions
NECK: supple
___: RRR no MRG
RESP: No increased WOB, bibasilar crackles, no wheezing or
rhonchi
GI: Soft, NTND no HSM
EXT: warm, no edema
SKIN: no rashes on extremities
NEURO: Alert and interactive with occasional word finding
difficulty.  R facial droop with external
deviation of L eye. Other CNs intact
ACCESS: PIV

 
Pertinent Results:
ADMISSION
___ 07:30AM BLOOD WBC-13.6* RBC-4.40 Hgb-13.7 Hct-42.1 
MCV-96 MCH-31.1 MCHC-32.5 RDW-12.4 RDWSD-44.3 Plt ___
___ 07:30AM BLOOD Glucose-108* UreaN-29* Creat-0.8 Na-141 
K-4.6 Cl-103 HCO3-28 AnGap-10
___ 07:30AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.2
___ 06:46AM BLOOD %HbA1c-11.0* eAG-269*
___ 09:40PM BLOOD WBC-6.7 RBC-4.51 Hgb-14.0 Hct-42.1 MCV-93 
MCH-31.0 MCHC-33.3 RDW-12.2 RDWSD-42.1 Plt ___
___ 09:40PM BLOOD Neuts-88.5* Lymphs-9.3* Monos-1.1* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-5.90 AbsLymp-0.62* 
AbsMono-0.07* AbsEos-0.00* AbsBaso-0.02
___ 09:40PM BLOOD ___ PTT-31.1 ___
___ 09:40PM BLOOD Glucose-338* UreaN-11 Creat-0.7 Na-137 
K-4.7 Cl-96 HCO3-28 AnGap-13
___ 09:40PM BLOOD ALT-13 AST-19 AlkPhos-91 TotBili-0.3
___ 09:40PM BLOOD Calcium-10.1 Phos-2.7 Mg-1.8

PERTINENT
___ 06:46AM BLOOD %HbA1c-11.0* eAG-269*

DISCHARGE

___ 07:25AM BLOOD WBC-5.0 RBC-3.77* Hgb-12.0 Hct-36.9 
MCV-98 MCH-31.8 MCHC-32.5 RDW-13.5 RDWSD-47.6* Plt ___
___ 07:00AM BLOOD Neuts-56.6 ___ Monos-9.1 Eos-4.4 
Baso-0.6 Im ___ AbsNeut-2.68 AbsLymp-1.32 AbsMono-0.43 
AbsEos-0.21 AbsBaso-0.03
___ 07:25AM BLOOD Glucose-119* UreaN-17 Creat-0.7 Na-140 
K-4.7 Cl-101 HCO3-26 AnGap-13
___ 01:08PM BLOOD ALT-13 AST-15 AlkPhos-79 TotBili-0.2
___ 07:25AM BLOOD Calcium-9.6 Phos-3.3 Mg-1.7

___ MRI Brain w & w/o Contrast (Sturdy ___, films not 
yet uploaded to PACS, although CD is in chart)
- Read per transfer summary:
- There is a heterogeneously enhancing mass 14mm in diameter in
the right cerebellar hemisphere with surrounding edema. 
- There are multiple ring-enhancing masses in the cerebrum with
surrounding edema. A total of a cerebral masses are identified
the largest one is in the left temporal lobe, 17 mm long axis
just inferior to the left basal ganglia. There is a 13 mm mass
near the body of the right side of the corpus callosum. 
- There is no midline shift or herniation. The brainstem is not
involved with a mass. 
- There is no intracranial hemorrhage.

___ Imaging FDG TUMOR IMAGING (PET- 
IMPRESSION:  Persistent lung nodules, with a several decreased 
in FDG avidity compared to the prior study.  However, there are 
at least two new lung nodules with FDG avidity. 

___ Cardiovascular ECHO 
The left atrium is normal in size. No atrial septal defect is
seen by 2D or color Doppler. Left ventricular wall thickness,
cavity size and regional/global systolic function are normal
(LVEF >55%). There is no ventricular septal defect. Right
ventricular chamber size and free wall motion are normal. The
diameters of aorta at the sinus, ascending and arch levels are
normal. The aortic valve leaflets (3) are mildly thickened but
aortic stenosis is not present. No aortic regurgitation is seen.
The mitral valve appears structurally normal with trivial mitral
regurgitation. The estimated pulmonary artery systolic pressure
is normal. There is no pericardial effusion.   

MRI Head ___
IMPRESSION: 1. Marked interval progression of intracranial 
metastatic disease compared with study of ___, with the 
vast majority of metastases demonstrating significant interval 
enlargement, the largest which now measures 18 mm. No definitely 
new lesions. 2. No evidence of superimposed acute infarction. No 
intracranial hemorrhage.

___ Neurophysiology EEG 
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study due to: 
  
1) Frequent multifocal blunted epileptiform discharges, most 
often with foci in the left frontal, right frontal, and right 
posterior quadrant regions, consistent with multifocal cortical 
hyperexcitability; 
  
2) Generalized slowing present in the background, which is 
consistent with a moderate global encephalopathy, nonspecific 
with regards to etiology 

MICRO: 
___: Urine Cx - <10K CFU

 
Brief Hospital Course:
___ with HER+ breast cancer with known supra and infratentorial 
brain metastasis who was admitted to ___ with one 
week of progressive confusion and falls, found to have 
progressively larger brain mets. 

# Breast ca w/ brain/lung mets 
# Cerebral edema
# Falls
Had previously been receiving palliative chemo, WBRT and SBRT. 
Family meeting held on ___ and in consultation with neuro-onc, 
rad-onc, and med-onc, no further radiation indicated at this 
time and she will proceed with chemo. She received Carboplatin 
on D1 ___, D8 on ___ with plans for outpatient chemo 
administration on ___. She tolerated the chemotherapy well. 
Foley was placed for chemo precuations and discontinued on ___ 
and she passed her voiding trial.

# Word finding difficulties
# Encephalopathy 
Throughout hospitalization, apparent she has waxing/waning 
confusion, at times inability to follow commands and other times 
inability to find her words. Discussed w/ Dr ___ sx c/f 
seizure. Repeat MRI did not reveal CVA. UA  neg for infection. 
She denied any pain or localizing symptom. EEG was consistent w/
largely encephalopathy but cannot entirely rule out seizure so 
will continue zonisamide which was tolerated well.

# Hyperglycemia
# DM2
Has history of DM2, but unclear if she was taking diabetes 
medications at home. Quite hyperglycemic here and A1c is 11, 
suggesting this is not just due to steroids. She remained 
hyperglycemic requiring >100U insulin daily so consulted ___
and have been aggressively titrating her insulin as the dex 
continues to wear off. 

She was restarted on metformin and her insulin dose was 
titrated. Her discharge regimen was:

Glargine 10U Breakfast 15U Bedtime
Humalog 6U QAC
Humalog sliding scale
                 Breakfast Lunch    Dinner Bedtime
71-180mg/dL 0   Units 0   Units 0   Units   0   Units 
181-230mg/dL 1   Units 1   Units 1   Units  0   Units 
231-280mg/dL 2   Units 2   Units 2   Units  1   Units 
281-330mg/dL 3   Units 3   Units 3   Units  2   Units 
331-400mg/dL 4   Units 4   Units 4   Units  3   Units 

# History of L femoral DVT: cont 2.5mg bid apixaban
 
# Chronic Diastolic Heart failure: Patient was euvolemic and 
normotensive despite holding her losartan and furosemide. Her 
home ASA was continued. On the day of discharge, the patient had 
mild, bibasilar crackles without dyspnea, increased work of 
breathing or hypoxia. Her home furosemide was reastarted.

# HTN: BP wnl off her home losartan, held bc of hyperkalemia 

#BILLING: >30  minutes were spent coordinating care with 
outpatient providers and preparing paperwork

TRANSITIONAL ISSUES:

Patient's insulin was uptitrated, please follow up blood sugars 
and adjust as needed. Hyperglycemia may improve and require less 
insulin as effects from dexamethasone wear off

Losartan was held due to normotension. Please reassess blood 
pressure and volume status and restart if needed.

Patient restarted on home furosemide on day of discharge due to 
mild crackles on exam. Please monitor respiratory status.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 5 mg PO BID 
2. Furosemide 20 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
4. Losartan Potassium 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Glargine 10 Units Breakfast
Glargine 15 Units Bedtime
Humalog 6 Units Breakfast
Humalog 8 Units Lunch
Humalog 8 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  MetFORMIN (Glucophage) 850 mg PO BID  
5.  Omeprazole 40 mg PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
8.  Zonisamide 50 mg PO BID  
9.  Apixaban 5 mg PO BID  
10.  Aspirin 81 mg PO DAILY  
11.  Furosemide 20 mg PO DAILY  
12.  Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS  
13.  Multivitamins 1 TAB PO DAILY  
14. HELD- Losartan Potassium 25 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until told to restart by 
your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Breast ca w/ brain/lung mets 
# Cerebral edema
# Falls
# Word finding difficulties
# Encephalopathy 
# Hyperglycemia
# DM2
# History of L femoral DVT
# Chronic D.CHF
# HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for confusion and falls and found to have 
worsening brain metastasis. You were seen by radiation oncology, 
neuro-oncology, and your oncologist, and felt that more 
radiation now would not be helpful. So you started on 
Carboplatin and a seizure medication. 
 
Followup Instructions:
___